M1 cont2 gate0 cont1 cont0 N w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u Nrs=0.135494 Nrd=0.139506 geo=3
M2 cont3 gate1 cont2 cont0 N w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u Nrs=0.135494 Nrd=0.139506 geo=3
M3 cont4 gate2 cont3 cont0 N w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u Nrs=0.135494 Nrd=0.139506 geo=2
M4 cont5 gate3 cont1 cont0 N w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u Nrs=0.139506 Nrd=0.135494 geo=2
M5 cont8 gate4 cont7 cont6 P w=1u l=0.25u As=0.275p Ad=0.2p Ps=2.55u Pd=1.4u Nrs=0.139506 Nrd=0.135494 geo=1
M6 cont9 gate5 cont8 cont6 P w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u Nrs=0.139506 Nrd=0.135494 geo=3
M7 cont10 gate6 cont9 cont6 P w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u Nrs=0.139506 Nrd=0.135494 geo=3
M8 cont11 gate7 cont10 cont6 P w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u Nrs=0.139506 Nrd=0.135494 geo=2
R1   aux1   aux2   0.18181636
R2   aux1   gate3  0.15876022
R3   aux1   in     0.29488136
R4   aux1   gate7  0.15743793
R5   aux3   gate4  0.16842802
R6   aux3   gate2  0.16884757
R7   aux3   aux4   0.16787189
R8   aux5   gate5  0.15534731
R9   aux5   aux4   0.0098569945
R10  aux5   aux2   0.18009292
R11  aux2   gate0  0.15820343
R12  aux2   gate6  0.15864871
R13  aux4   gate1  0.1542784
R14  aux6   cont9  0.44381859
R15  aux6   cont7  1.0894635
R16  aux6   aux7   0.62332248
R17  aux7   vdd    0.15568487
R18  aux7   cont11 0.48116869
R19  vdd    cont6  0.99303146
R20  aux9   aux10  0.62404671
R21  aux9   cont4  1.1015318
R22  aux9   cont2  0.45706654
R23  aux10  cont5  0.49111188
R24  aux10  gnd    0.15766497
R25  gnd    cont0  0.99680058
R26  aux12  aux13  0.13520704
R27  aux12  out    0.16169579
R28  aux12  aux14  0.3062053
R29  aux13  cont3  0.50024733
R30  aux13  cont8  0.50956818
R31  aux14  cont10 0.50938193
R32  aux14  cont1  0.50036767
C1   cont1  cont2  3.1474127e-18
C2   cont1  gate0  3.7980123e-18
C3   cont1  cont0  3.1474127e-18
C4   cont1  gnd    6.2948253e-18
C5   cont1  in     3.7980123e-18
C6   cont1  gate1  3.7980123e-18
C7   cont1  cont4  3.1474127e-18
C8   cont1  gate2  3.7980123e-18
C9   cont1  cont5  3.1474127e-18
C10  cont1  gate3  3.7980123e-18
C11  cont1  cont7  3.1820814e-18
C12  cont1  gate4  3.7980123e-18
C13  cont1  cont6  3.1820814e-18
C14  cont1  vdd    6.3641628e-18
C15  cont1  cont9  3.1820814e-18
C16  cont1  gate5  3.7980123e-18
C17  cont1  gate6  3.7980123e-18
C18  cont1  cont11 3.1820814e-18
C19  cont1  gate7  3.7980123e-18
C20  cont1  aux1   1.5192049e-17
C21  cont1  aux2   1.5192049e-17
C22  cont1  aux3   1.1394037e-17
C23  cont1  aux4   1.1394037e-17
C24  cont1  aux5   1.1394037e-17
C25  cont1  aux6   9.5462442e-18
C26  cont1  aux7   9.5462442e-18
C27  cont1  aux9   9.442238e-18
C28  cont1  aux10  9.442238e-18
C29  cont2  gate0  2.6619726e-18
C30  out    cont2  3.1474127e-18
C31  cont2  in     2.6619726e-18
C32  cont3  cont2  3.1474127e-18
C33  cont2  gate1  2.6619726e-18
C34  cont2  gate2  2.6619726e-18
C35  cont2  gate3  2.6619726e-18
C36  cont2  cont7  5.8405043e-19
C37  cont8  cont2  3.1474127e-18
C38  cont2  gate4  2.6619726e-18
C39  cont2  cont6  5.8405043e-19
C40  cont2  vdd    1.1681009e-18
C41  cont2  cont9  5.8405043e-19
C42  cont2  gate5  2.6619726e-18
C43  cont10 cont2  3.1474127e-18
C44  cont2  gate6  2.6619726e-18
C45  cont2  cont11 5.8405043e-19
C46  cont2  gate7  2.6619726e-18
C47  cont2  aux1   1.064789e-17
C48  cont2  aux2   1.064789e-17
C49  cont2  aux3   7.9859177e-18
C50  cont2  aux4   7.9859177e-18
C51  cont2  aux5   7.9859177e-18
C52  cont2  aux6   1.7521513e-18
C53  cont2  aux7   1.7521513e-18
C54  aux12  cont2  9.442238e-18
C55  aux13  cont2  9.442238e-18
C56  aux14  cont2  9.442238e-18
C57  cont0  gate0  2.6619726e-18
C58  out    gate0  3.7980123e-18
C59  gnd    gate0  5.3239451e-18
C60  cont3  gate0  3.7980123e-18
C61  cont4  gate0  2.6619726e-18
C62  cont5  gate0  2.6619726e-18
C63  gate0  cont7  2.633598e-18
C64  cont8  gate0  3.7980123e-18
C65  gate0  cont6  2.633598e-18
C66  gate0  vdd    5.2671959e-18
C67  gate0  cont9  2.633598e-18
C68  cont10 gate0  3.7980123e-18
C69  gate0  cont11 2.633598e-18
C70  gate0  aux6   7.9007939e-18
C71  gate0  aux7   7.9007939e-18
C72  aux9   gate0  7.9859177e-18
C73  aux10  gate0  7.9859177e-18
C74  aux12  gate0  1.1394037e-17
C75  aux13  gate0  1.1394037e-17
C76  aux14  gate0  1.1394037e-17
C77  out    cont0  3.1474127e-18
C78  cont0  in     2.6619726e-18
C79  cont3  cont0  3.1474127e-18
C80  cont0  gate1  2.6619726e-18
C81  cont0  gate2  2.6619726e-18
C82  cont0  gate3  2.6619726e-18
C83  cont0  cont7  5.8405043e-19
C84  cont8  cont0  3.1474127e-18
C85  cont0  gate4  2.6619726e-18
C86  cont0  cont6  5.8405043e-19
C87  cont0  vdd    1.1681009e-18
C88  cont0  cont9  5.8405043e-19
C89  cont0  gate5  2.6619726e-18
C90  cont10 cont0  3.1474127e-18
C91  cont0  gate6  2.6619726e-18
C92  cont0  cont11 5.8405043e-19
C93  cont0  gate7  2.6619726e-18
C94  cont0  aux1   1.064789e-17
C95  cont0  aux2   1.064789e-17
C96  cont0  aux3   7.9859177e-18
C97  cont0  aux4   7.9859177e-18
C98  cont0  aux5   7.9859177e-18
C99  cont0  aux6   1.7521513e-18
C100 cont0  aux7   1.7521513e-18
C101 aux12  cont0  9.442238e-18
C102 aux13  cont0  9.442238e-18
C103 aux14  cont0  9.442238e-18
C104 out    gnd    6.2948253e-18
C105 out    in     3.7980123e-18
C106 out    gate1  3.7980123e-18
C107 out    cont4  3.1474127e-18
C108 out    gate2  3.7980123e-18
C109 out    cont5  3.1474127e-18
C110 out    gate3  3.7980123e-18
C111 out    cont7  3.1820814e-18
C112 out    gate4  3.7980123e-18
C113 out    cont6  3.1820814e-18
C114 out    vdd    6.3641628e-18
C115 out    cont9  3.1820814e-18
C116 out    gate5  3.7980123e-18
C117 out    gate6  3.7980123e-18
C118 out    cont11 3.1820814e-18
C119 out    gate7  3.7980123e-18
C120 out    aux1   1.5192049e-17
C121 out    aux2   1.5192049e-17
C122 out    aux3   1.1394037e-17
C123 out    aux4   1.1394037e-17
C124 out    aux5   1.1394037e-17
C125 out    aux6   9.5462442e-18
C126 out    aux7   9.5462442e-18
C127 out    aux9   9.442238e-18
C128 out    aux10  9.442238e-18
C129 gnd    in     5.3239451e-18
C130 cont3  gnd    6.2948253e-18
C131 gnd    gate1  5.3239451e-18
C132 gnd    gate2  5.3239451e-18
C133 gnd    gate3  5.3239451e-18
C134 gnd    cont7  1.1681009e-18
C135 cont8  gnd    6.2948253e-18
C136 gnd    gate4  5.3239451e-18
C137 gnd    cont6  1.1681009e-18
C138 gnd    vdd    2.3362017e-18
C139 gnd    cont9  1.1681009e-18
C140 gnd    gate5  5.3239451e-18
C141 cont10 gnd    6.2948253e-18
C142 gnd    gate6  5.3239451e-18
C143 gnd    cont11 1.1681009e-18
C144 gnd    gate7  5.3239451e-18
C145 gnd    aux1   2.129578e-17
C146 gnd    aux2   2.129578e-17
C147 gnd    aux3   1.5971835e-17
C148 gnd    aux4   1.5971835e-17
C149 gnd    aux5   1.5971835e-17
C150 gnd    aux6   3.5043026e-18
C151 gnd    aux7   3.5043026e-18
C152 aux12  gnd    1.8884476e-17
C153 aux13  gnd    1.8884476e-17
C154 aux14  gnd    1.8884476e-17
C155 cont3  in     3.7980123e-18
C156 cont4  in     2.6619726e-18
C157 cont5  in     2.6619726e-18
C158 in     cont7  2.633598e-18
C159 cont8  in     3.7980123e-18
C160 in     cont6  2.633598e-18
C161 in     vdd    5.2671959e-18
C162 in     cont9  2.633598e-18
C163 cont10 in     3.7980123e-18
C164 in     cont11 2.633598e-18
C165 in     aux6   7.9007939e-18
C166 in     aux7   7.9007939e-18
C167 aux9   in     7.9859177e-18
C168 aux10  in     7.9859177e-18
C169 aux12  in     1.1394037e-17
C170 aux13  in     1.1394037e-17
C171 aux14  in     1.1394037e-17
C172 cont3  gate1  3.7980123e-18
C173 cont3  cont4  3.1474127e-18
C174 cont3  gate2  3.7980123e-18
C175 cont3  cont5  3.1474127e-18
C176 cont3  gate3  3.7980123e-18
C177 cont3  cont7  3.1820814e-18
C178 cont3  gate4  3.7980123e-18
C179 cont3  cont6  3.1820814e-18
C180 cont3  vdd    6.3641628e-18
C181 cont3  cont9  3.1820814e-18
C182 cont3  gate5  3.7980123e-18
C183 cont3  gate6  3.7980123e-18
C184 cont3  cont11 3.1820814e-18
C185 cont3  gate7  3.7980123e-18
C186 cont3  aux1   1.5192049e-17
C187 cont3  aux2   1.5192049e-17
C188 cont3  aux3   1.1394037e-17
C189 cont3  aux4   1.1394037e-17
C190 cont3  aux5   1.1394037e-17
C191 cont3  aux6   9.5462442e-18
C192 cont3  aux7   9.5462442e-18
C193 cont3  aux9   9.442238e-18
C194 cont3  aux10  9.442238e-18
C195 cont4  gate1  2.6619726e-18
C196 cont5  gate1  2.6619726e-18
C197 gate1  cont7  2.633598e-18
C198 cont8  gate1  3.7980123e-18
C199 gate1  cont6  2.633598e-18
C200 gate1  vdd    5.2671959e-18
C201 gate1  cont9  2.633598e-18
C202 cont10 gate1  3.7980123e-18
C203 gate1  cont11 2.633598e-18
C204 gate1  aux6   7.9007939e-18
C205 gate1  aux7   7.9007939e-18
C206 aux9   gate1  7.9859177e-18
C207 aux10  gate1  7.9859177e-18
C208 aux12  gate1  1.1394037e-17
C209 aux13  gate1  1.1394037e-17
C210 aux14  gate1  1.1394037e-17
C211 cont4  gate2  2.6619726e-18
C212 cont4  gate3  2.6619726e-18
C213 cont4  cont7  5.8405043e-19
C214 cont8  cont4  3.1474127e-18
C215 cont4  gate4  2.6619726e-18
C216 cont4  cont6  5.8405043e-19
C217 cont4  vdd    1.1681009e-18
C218 cont4  cont9  5.8405043e-19
C219 cont4  gate5  2.6619726e-18
C220 cont10 cont4  3.1474127e-18
C221 cont4  gate6  2.6619726e-18
C222 cont4  cont11 5.8405043e-19
C223 cont4  gate7  2.6619726e-18
C224 cont4  aux1   1.064789e-17
C225 cont4  aux2   1.064789e-17
C226 cont4  aux3   7.9859177e-18
C227 cont4  aux4   7.9859177e-18
C228 cont4  aux5   7.9859177e-18
C229 cont4  aux6   1.7521513e-18
C230 cont4  aux7   1.7521513e-18
C231 aux12  cont4  9.442238e-18
C232 aux13  cont4  9.442238e-18
C233 aux14  cont4  9.442238e-18
C234 cont5  gate2  2.6619726e-18
C235 gate2  cont7  2.633598e-18
C236 cont8  gate2  3.7980123e-18
C237 gate2  cont6  2.633598e-18
C238 gate2  vdd    5.2671959e-18
C239 gate2  cont9  2.633598e-18
C240 cont10 gate2  3.7980123e-18
C241 gate2  cont11 2.633598e-18
C242 gate2  aux6   7.9007939e-18
C243 gate2  aux7   7.9007939e-18
C244 aux9   gate2  7.9859177e-18
C245 aux10  gate2  7.9859177e-18
C246 aux12  gate2  1.1394037e-17
C247 aux13  gate2  1.1394037e-17
C248 aux14  gate2  1.1394037e-17
C249 cont5  gate3  2.6619726e-18
C250 cont5  cont7  5.8405043e-19
C251 cont8  cont5  3.1474127e-18
C252 cont5  gate4  2.6619726e-18
C253 cont5  cont6  5.8405043e-19
C254 cont5  vdd    1.1681009e-18
C255 cont5  cont9  5.8405043e-19
C256 cont5  gate5  2.6619726e-18
C257 cont10 cont5  3.1474127e-18
C258 cont5  gate6  2.6619726e-18
C259 cont5  cont11 5.8405043e-19
C260 cont5  gate7  2.6619726e-18
C261 cont5  aux1   1.064789e-17
C262 cont5  aux2   1.064789e-17
C263 cont5  aux3   7.9859177e-18
C264 cont5  aux4   7.9859177e-18
C265 cont5  aux5   7.9859177e-18
C266 cont5  aux6   1.7521513e-18
C267 cont5  aux7   1.7521513e-18
C268 aux12  cont5  9.442238e-18
C269 aux13  cont5  9.442238e-18
C270 aux14  cont5  9.442238e-18
C271 gate3  cont7  2.633598e-18
C272 cont8  gate3  3.7980123e-18
C273 gate3  cont6  2.633598e-18
C274 gate3  vdd    5.2671959e-18
C275 gate3  cont9  2.633598e-18
C276 cont10 gate3  3.7980123e-18
C277 gate3  cont11 2.633598e-18
C278 gate3  aux6   7.9007939e-18
C279 gate3  aux7   7.9007939e-18
C280 aux9   gate3  7.9859177e-18
C281 aux10  gate3  7.9859177e-18
C282 aux12  gate3  1.1394037e-17
C283 aux13  gate3  1.1394037e-17
C284 aux14  gate3  1.1394037e-17
C285 cont8  cont7  3.1820814e-18
C286 gate4  cont7  2.633598e-18
C287 gate5  cont7  2.633598e-18
C288 cont10 cont7  3.1820814e-18
C289 gate6  cont7  2.633598e-18
C290 gate7  cont7  2.633598e-18
C291 aux1   cont7  1.0534392e-17
C292 aux2   cont7  1.0534392e-17
C293 aux3   cont7  7.9007939e-18
C294 aux4   cont7  7.9007939e-18
C295 aux5   cont7  7.9007939e-18
C296 aux9   cont7  1.7521513e-18
C297 aux10  cont7  1.7521513e-18
C298 aux12  cont7  9.5462442e-18
C299 aux13  cont7  9.5462442e-18
C300 aux14  cont7  9.5462442e-18
C301 cont8  gate4  3.7980123e-18
C302 cont8  cont6  3.1820814e-18
C303 cont8  vdd    6.3641628e-18
C304 cont8  cont9  3.1820814e-18
C305 cont8  gate5  3.7980123e-18
C306 cont8  gate6  3.7980123e-18
C307 cont8  cont11 3.1820814e-18
C308 cont8  gate7  3.7980123e-18
C309 cont8  aux1   1.5192049e-17
C310 cont8  aux2   1.5192049e-17
C311 cont8  aux3   1.1394037e-17
C312 cont8  aux4   1.1394037e-17
C313 cont8  aux5   1.1394037e-17
C314 cont8  aux6   9.5462442e-18
C315 cont8  aux7   9.5462442e-18
C316 cont8  aux9   9.442238e-18
C317 cont8  aux10  9.442238e-18
C318 gate4  cont6  2.633598e-18
C319 gate4  vdd    5.2671959e-18
C320 gate4  cont9  2.633598e-18
C321 cont10 gate4  3.7980123e-18
C322 gate4  cont11 2.633598e-18
C323 gate4  aux6   7.9007939e-18
C324 gate4  aux7   7.9007939e-18
C325 aux9   gate4  7.9859177e-18
C326 aux10  gate4  7.9859177e-18
C327 aux12  gate4  1.1394037e-17
C328 aux13  gate4  1.1394037e-17
C329 aux14  gate4  1.1394037e-17
C330 gate5  cont6  2.633598e-18
C331 cont10 cont6  3.1820814e-18
C332 gate6  cont6  2.633598e-18
C333 gate7  cont6  2.633598e-18
C334 aux1   cont6  1.0534392e-17
C335 aux2   cont6  1.0534392e-17
C336 aux3   cont6  7.9007939e-18
C337 aux4   cont6  7.9007939e-18
C338 aux5   cont6  7.9007939e-18
C339 aux9   cont6  1.7521513e-18
C340 aux10  cont6  1.7521513e-18
C341 aux12  cont6  9.5462442e-18
C342 aux13  cont6  9.5462442e-18
C343 aux14  cont6  9.5462442e-18
C344 gate5  vdd    5.2671959e-18
C345 cont10 vdd    6.3641628e-18
C346 gate6  vdd    5.2671959e-18
C347 gate7  vdd    5.2671959e-18
C348 aux1   vdd    2.1068784e-17
C349 aux2   vdd    2.1068784e-17
C350 aux3   vdd    1.5801588e-17
C351 aux4   vdd    1.5801588e-17
C352 aux5   vdd    1.5801588e-17
C353 aux9   vdd    3.5043026e-18
C354 aux10  vdd    3.5043026e-18
C355 aux12  vdd    1.9092488e-17
C356 aux13  vdd    1.9092488e-17
C357 aux14  vdd    1.9092488e-17
C358 gate5  cont9  2.633598e-18
C359 cont10 cont9  3.1820814e-18
C360 gate6  cont9  2.633598e-18
C361 gate7  cont9  2.633598e-18
C362 aux1   cont9  1.0534392e-17
C363 aux2   cont9  1.0534392e-17
C364 aux3   cont9  7.9007939e-18
C365 aux4   cont9  7.9007939e-18
C366 aux5   cont9  7.9007939e-18
C367 aux9   cont9  1.7521513e-18
C368 aux10  cont9  1.7521513e-18
C369 aux12  cont9  9.5462442e-18
C370 aux13  cont9  9.5462442e-18
C371 aux14  cont9  9.5462442e-18
C372 cont10 gate5  3.7980123e-18
C373 gate5  cont11 2.633598e-18
C374 gate5  aux6   7.9007939e-18
C375 gate5  aux7   7.9007939e-18
C376 aux9   gate5  7.9859177e-18
C377 aux10  gate5  7.9859177e-18
C378 aux12  gate5  1.1394037e-17
C379 aux13  gate5  1.1394037e-17
C380 aux14  gate5  1.1394037e-17
C381 cont10 gate6  3.7980123e-18
C382 cont10 cont11 3.1820814e-18
C383 cont10 gate7  3.7980123e-18
C384 cont10 aux1   1.5192049e-17
C385 cont10 aux2   1.5192049e-17
C386 cont10 aux3   1.1394037e-17
C387 cont10 aux4   1.1394037e-17
C388 cont10 aux5   1.1394037e-17
C389 cont10 aux6   9.5462442e-18
C390 cont10 aux7   9.5462442e-18
C391 cont10 aux9   9.442238e-18
C392 cont10 aux10  9.442238e-18
C393 gate6  cont11 2.633598e-18
C394 gate6  aux6   7.9007939e-18
C395 gate6  aux7   7.9007939e-18
C396 aux9   gate6  7.9859177e-18
C397 aux10  gate6  7.9859177e-18
C398 aux12  gate6  1.1394037e-17
C399 aux13  gate6  1.1394037e-17
C400 aux14  gate6  1.1394037e-17
C401 gate7  cont11 2.633598e-18
C402 aux1   cont11 1.0534392e-17
C403 aux2   cont11 1.0534392e-17
C404 aux3   cont11 7.9007939e-18
C405 aux4   cont11 7.9007939e-18
C406 aux5   cont11 7.9007939e-18
C407 aux9   cont11 1.7521513e-18
C408 aux10  cont11 1.7521513e-18
C409 aux12  cont11 9.5462442e-18
C410 aux13  cont11 9.5462442e-18
C411 aux14  cont11 9.5462442e-18
C412 gate7  aux6   7.9007939e-18
C413 gate7  aux7   7.9007939e-18
C414 aux9   gate7  7.9859177e-18
C415 aux10  gate7  7.9859177e-18
C416 aux12  gate7  1.1394037e-17
C417 aux13  gate7  1.1394037e-17
C418 aux14  gate7  1.1394037e-17
C419 aux1   aux6   3.1603176e-17
C420 aux1   aux7   3.1603176e-17
C421 aux9   aux1   3.1943671e-17
C422 aux10  aux1   3.1943671e-17
C423 aux12  aux1   4.5576148e-17
C424 aux13  aux1   4.5576148e-17
C425 aux14  aux1   4.5576148e-17
C426 aux2   aux6   3.1603176e-17
C427 aux2   aux7   3.1603176e-17
C428 aux9   aux2   3.1943671e-17
C429 aux10  aux2   3.1943671e-17
C430 aux12  aux2   4.5576148e-17
C431 aux13  aux2   4.5576148e-17
C432 aux14  aux2   4.5576148e-17
C433 aux3   aux6   2.3702382e-17
C434 aux3   aux7   2.3702382e-17
C435 aux9   aux3   2.3957753e-17
C436 aux10  aux3   2.3957753e-17
C437 aux12  aux3   3.4182111e-17
C438 aux13  aux3   3.4182111e-17
C439 aux14  aux3   3.4182111e-17
C440 aux4   aux6   2.3702382e-17
C441 aux4   aux7   2.3702382e-17
C442 aux9   aux4   2.3957753e-17
C443 aux10  aux4   2.3957753e-17
C444 aux12  aux4   3.4182111e-17
C445 aux13  aux4   3.4182111e-17
C446 aux14  aux4   3.4182111e-17
C447 aux5   aux6   2.3702382e-17
C448 aux5   aux7   2.3702382e-17
C449 aux9   aux5   2.3957753e-17
C450 aux10  aux5   2.3957753e-17
C451 aux12  aux5   3.4182111e-17
C452 aux13  aux5   3.4182111e-17
C453 aux14  aux5   3.4182111e-17
C454 aux9   aux6   5.2564539e-18
C455 aux10  aux6   5.2564539e-18
C456 aux12  aux6   2.8638733e-17
C457 aux13  aux6   2.8638733e-17
C458 aux14  aux6   2.8638733e-17
C459 aux9   aux7   5.2564539e-18
C460 aux10  aux7   5.2564539e-18
C461 aux12  aux7   2.8638733e-17
C462 aux13  aux7   2.8638733e-17
C463 aux14  aux7   2.8638733e-17
C464 aux12  aux9   2.8326714e-17
C465 aux13  aux9   2.8326714e-17
C466 aux14  aux9   2.8326714e-17
C467 aux12  aux10  2.8326714e-17
C468 aux13  aux10  2.8326714e-17
C469 aux14  aux10  2.8326714e-17
